US08536168B2
(R)-4-(4-Benzyl-phthalazin-1-yl)-2-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester
(R)-2-Methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester (150 mg, 0.63 mmol), 1-benzyl-4-chloro-phthalazine (161.75 mg, 0.635 mmol) are added into a microwave vial followed by NMP (3.3 mL) and triethylamine (0.265 mL, 1.91 mmol). The vial is sealed and irradiated in the microwave at 180° C. for 30 min. The crude material is directly purified via flash chromatography on silica gel (40-100% EtOAc in heptane). Desired product is then washed with water and lyophilized to afford the title compound (52 mg, 18% yield).

reactant | (R)-2-Methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester | 0.63 mmol, 150 mg | COC(=O)C=1N=CC(=NC1)N1[C@@H](CNCC1)C | C11H16N4O2
reactant | 1-benzyl-4-chloro-phthalazine | 0.635 mmol, 161.75 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)Cl | C15H11ClN2
reactant | triethylamine | 1.91 mmol, 0.265 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 3.3 mL | CN1CCCC1=O | C5H9NO
product | (R)-4-(4-Benzyl-phthalazin-1-yl)-2-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester | 52 mg, 18% yield | COC(=O)C=1N=CC(=NC1)N1[C@@H](CN(CC1)C1=NN=C(C2=CC=CC=C12)CC1=CC=CC=C1)C | C26H26N6O2
